US06433211B1
p-Cyanobenzamide (73.0 g, 0.5 mol) which has a purity of 99% or more and ethanol (460.3 g) were placed in a 2 l-separable flask, and the mixture was allowed to react at 78° C. for 12 hours while a 20% hydrochloric acid/ethanol solution (162.4 g) prepared in advance was added thereto with stirring. Gas chromatographic analysis revealed that the reaction mixture contained 83.1 g of ethyl p-cyanobenzoate (yield 95%). Subsequently, the reaction mixture was concentrated under reduced pressure, and water was added thereto. The resultant mixture was dissolved through heating, and cooled for crystallization, to thereby obtain 74.7 g of ethyl p-cyanobenzoate having a purity of 99.5% (yield 85%).

reactant | p-Cyanobenzamide | 0.5 mol, 73.0 g | C(#N)C1=CC=C(C(=O)N)C=C1 | C8H6N2O
reactant | hydrochloric acid ethanol | 162.4 g | Cl.C(C)O
solvent | ethanol | 460.3 g | C(C)O | C2H6O
product | ethyl p-cyanobenzoate | 83.1 g, yield 95% | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
